US05693635
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-2-methoxyphenyl]-2-methylbenzamide
A mixture of 1.0 g of 5-(3-methoxy-4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine, 0.47 g of N,N-diisopropylethylamine and 0.56 g of 2-methylbenzoyl chloride in 25 ml of methylene chloride is stirred at room temperature for 18 hours. The reaction mixture is washed with water and saturated NaHCO3, dried (Na2SO4) and passed through a short pad of hydrous magnesium silicate. Hexane is added at the boil to give 1.27 g of the desired product as a crystalline solid, m.p. 209°-210° C.

reactant | 5-(3-methoxy-4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 1.0 g | COC=1C=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=CC1N | C22H20N2O2
reactant | N,N-diisopropylethylamine | 0.47 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methylbenzoyl chloride | 0.56 g | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-2-methoxyphenyl]-2-methylbenzamide | 1.27 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC(=C(C=C3)NC(C3=C(C=CC=C3)C)=O)OC | C30H26N2O3
